US04421914
Aniline (18.6 g) was dissolved in dry benzene (125 ml), and diethyl bromomalonate (23.9 g) was added. The mixture was heated under reflux for 37 hours with stirring. The reaction mixture was washed with dilute hydrochloric acid to remove the unreacted aniline. The benzene layer was washed with water three times, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography using hexane/ethyl acetate (10:1) as an eluent to give 7.5 g (yield 30%) of diethyl anilinomalonate having the following NMR data.

reactant | Aniline | 18.6 g | NC1=CC=CC=C1 | C6H7N
reactant | diethyl bromomalonate | 23.9 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | diethyl anilinomalonate | 7.5 g, yield 30% | N(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H17NO4
